US05886177
2-(N-Imidazolyl)acetic acid
Imidazole (3.7 g, 54 mmol) was added to a suspension of sodium hydride (2.6 g of a 60% dispersion in oil, 60 mmol) in 50 ml dry THF. Bromoacetic acid (3.4 g, 24 mmol) was then added and the mixture stirred overnight. Water (1 ml) was then added and the solvent removed under reduced pressure. The residue was taken up in water (50 ml, pH>10), extracted with ether and the organic layer discarded. The aqueous layer was acidified to pH 1 with concentrated HCl and extracted again with ether. The aqueous layer was evaporated to dryness. The oily residue was dissolved in absolute ethanol (EtOH) to precipitate NaCl, and recrystallized from acetone/methanol to give 1.22 g (7.5 mmol, 30%) pure product as the hydrochloride. 1H NMR: (DMSO-d6, 200 MHz) δ 9.20 (s, H2), 7.76 (d, J=1.5 Hz), 7.69 (d, J=1.5 Hz), 5.20 (s, CH2).0

reactant | Imidazole | 54 mmol, 3.7 g | N1C=NC=C1 | C3H4N2
reactant | sodium hydride | [H-].[Na+]
reactant | Bromoacetic acid | 24 mmol, 3.4 g | BrCC(=O)O | C2H3BrO2
reactant | hydrochloride | Cl | ClH
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | Water | 1 ml | O | H2O
product | 2-(N-Imidazolyl)acetic acid | 7.5 mmol, 1.22 g, 30% | N1(C=NC=C1)CC(=O)O | C5H6N2O2
